US04950674
1-[4-[3-[4-[Cyclohexyl(4-fluorophenyl)methyl]-1-piperdinyl]propoxy]-3-methoxyphenyl]ethanone
A mixture of 4-[cyclohexyl(4-fluorophenyl)methyl]piperidine (5.71 g, 0.0207 mole), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (5.03 g, 0.207 mole), and potassium carbonate (5.53 g, 0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The reaction mixture was cooled to room temperature and filtered. The 1-butanol was removed by rotary evaporation to give a brown oil. This oil was dissolved in chloroform and the chloroform layer was extracted with 5% sodium hydroxide and water. The chloroform layer was dried over sodium sulfate, filtered, and solvent removed to give a brown oil. This oil was subjected to flash chromatography on silica gel. Elution was performed using ethyl acetate, 5% methanol-ethyl acetate, and 10% methanol-ethyl acetate. Separate fractions of similar purity were combined and solvent was removed to give a yellow oil. This oil was dried in vacuo overnight at 80° C. to give 7.36 g (73.8%) of title compound.

reactant | 4-[cyclohexyl(4-fluorophenyl)methyl]piperidine | 0.0207 mole, 5.71 g | C1(CCCCC1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H26FN
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 0.207 mole, 5.03 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | potassium iodide | 0.2 g | [I-].[K+]
product | 1-[4-[3-[4-[Cyclohexyl(4-fluorophenyl)methyl]-1-piperdinyl]propoxy]-3-methoxyphenyl]ethanone | 7.36 g, 73.8% | C1(CCCCC1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)C1=CC=C(C=C1)F | C30H40FNO3
